* Author: Adriaan van Wijk
* Version: 1.4
* Last modification date: 14 April 2022
* Last modification by: Adriaan van Wijk
* Based on the design by Rylov [2019]

* Copyright (c) 2022 Adriaan van Wijk, Stellenbosch University

* Permission is hereby granted, free of charge, to any person obtaining a copy
* of this cell library and associated documentation files (the "Library"), to deal
* in the Library without restriction, including without limitation the rights
* to use, copy, modify, merge, publish, distribute, sublicense, and/or sell
* copies of the Library, and to permit persons to whom the Library is
* furnished to do so, subject to the following conditions:

* The above copyright notice and this permission notice shall be included in all
* copies or substantial portions of the Library.

* THE LIBRARY IS PROVIDED "AS IS", WITHOUT WARRANTY OF ANY KIND, EXPRESS OR
* IMPLIED, INCLUDING BUT NOT LIMITED TO THE WARRANTIES OF MERCHANTABILITY,
* FITNESS FOR A PARTICULAR PURPOSE AND NONINFRINGEMENT. IN NO EVENT SHALL THE
* AUTHORS OR COPYRIGHT HOLDERS BE LIABLE FOR ANY CLAIM, DAMAGES OR OTHER
* LIABILITY, WHETHER IN AN ACTION OF CONTRACT, TORT OR OTHERWISE, ARISING FROM,
* OUT OF OR IN CONNECTION WITH THE LIBRARY OR THE USE OR OTHER DEALINGS IN THE
* LIBRARY.

*For questions about the library, contact Adriaan van Wijk, 21786275@sun.ac.za

*********************************
* Additional Notes

* The throughput for this logic cell is approximately 5ps with zero skew applied.
* The skew tolerance can be adjusted using the following formula:
* RHold = a * (18 * t_hold)^b
* Where a = 3.572e-10
* and   b = -1.023
* This basic cell is designed for a skew of ~10ps


*$Ports    A B q
.subckt DSFQ_AND A B q



.param 	b1  	= 0.84
.param 	b2  	= 0.84
.param 	b3 		= 0.6
.param 	b4 		= 0.6
.param 	b5  	= 1.68
.param 	i1  	= 70u
.param 	l1  	= 8p
.param 	l2 		= l1
.param 	l3  	= 2p
.param 	lp1  	= 0.2p
.param 	lrb1  	= 6.4597p
.param 	lrb2  	= 4.6141p
.param 	lrb3  	= 6.4597p
.param 	lrb4  	= 4.6141p
.param 	lrb5  	= 2.3071p
.param 	r1  	= 3.079
.param 	r2  	= 3.079
.param 	r3  	= 3.079
.param 	r4  	= 3.079
.param 	rb1  	= 11.4332
.param 	rb2  	= rb1
.param 	rb3 	= 8.1666
.param 	rb4 	= rb3
.param 	rb5  	= 4.0833

b1   	4   	5   	 jjmit area=b1
b2   	6   	7   	 jjmit area=b2
b3   	4   	8   	 jjmit area=b3
b4   	6   	4   	 jjmit area=b4
b5   	4   	9   	 jjmit area=b5
i1   	0   	4   	pwl(0   	0   	5p   	i1)
l1   	a   	5   	 l1
l2   	b   	7   	 l2
l3   	4   	q   	 l3
lp1   	9   	0   	 lp1
lrb1   	10   	4   	 lrb1
lrb2   	11   	6   	 lrb2
lrb3   	12   	4   	 lrb3
lrb4   	13   	6   	 lrb4
lrb5   	14   	0   	 lrb5
r1   	5   	4   	 r1
r2   	7   	6   	 r2
r3   	8   	5   	 r3
r4   	4   	7   	 r4
rb1   	5   	10   	 rb1
rb2   	7   	11   	 rb2
rb3   	8   	12   	 rb3
rb4   	4   	13   	 rb4
rb5   	4   	14   	 rb5
.ends